US04171365
A solution of 0.36 ml (0.00815 m) of hydrazine hydrate in 350 ml of ethanol was added dropwise during a 90 minute period to a solution of 3.3 g (0.0074 m) of 1,4-bis(4,4-dipropionylbutyloxy)benzene in 700 ml of ethanol held at 0°-5° C. and with vigorous stirring. The reaction mixture was then heated at reflux for 2.5 hours and allowed to stand at room temperature overnight. The reaction mixture was concentrated in vacuo, and the residue was treated with ethereal hydrogen chloride. The solid product which formed was collected and stirred for two hours with 250 ml boiling isopropyl acetate, then filtered and concentrated. The solid residue was recrystallized from isopropyl acetate to give 1.6 g of 4-{3-[4-(4,4-dipropionylbutyloxy)phenoxy]propyl}-3,5-diethyl-1H-pyrazole, m.p. 135°-136° C.

reactant | hydrazine hydrate | 0.36 ml | O.NN
reactant | 1,4-bis(4,4-dipropionylbutyloxy)benzene | 3.3 g | C(CC)(=O)C(CCCOC1=CC=C(C=C1)OCCCC(C(CC)=O)C(CC)=O)C(CC)=O | C26H38O6
solvent | ethanol | 350 ml | C(C)O | C2H6O
solvent | ethanol | 700 ml | C(C)O | C2H6O
product | 4-{3-[4-(4,4-dipropionylbutyloxy)phenoxy]propyl}-3,5-diethyl-1H-pyrazole | 1.6 g | C(CC)(=O)C(CCCOC1=CC=C(OCCCC=2C(=NNC2CC)CC)C=C1)C(CC)=O | C26H38N2O4
